US08877801B2
To a solution of tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)propanoate (27 mg, 0.055 mmol) in DCM (1.7 mL) at 0° C. was added BBr3 (1.0 M in DCM, 0.220 mL, 0.220 mmol) dropwise (reaction turned brown in color and a solid immediately precipitated from the solution). The resulting mixture was stirred at 0° C. for 1 h after which the reaction was quenched with ice water (3.0 mL) and allowed to warm to room temperature with vigorous stirring. The resulting mixture was concentrated in vacuo and dissolved in MeOH (2 mL) then purified by reverse phase HPLC (neutral condition, 3% 1-propanol in 1-100% CH3CN/H2O) to afford 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)propanoic acid (7 mg, 0.02 mmol, 31% yield). LC/MS (m/z, MH+): 407.0943.

reactant | tert-butyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)propanoate | 0.055 mmol, 27 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)CCC(=O)OC(C)(C)C)C2=CC=C(C=C2)OC)C1 | C29H30O5S
reactant | BBr3 | 0.220 mmol, 1.0 M, 0.220 mL | B(Br)(Br)Br | BBr3
solvent | DCM | 1.7 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-((6-hydroxy-2-(4-hydroxyphenyl)-benzo[b]thiophen-3-yl)oxy)phenyl)propanoic acid | 0.02 mmol, 7 mg, 31% yield | OC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)CCC(=O)O)C2=CC=C(C=C2)O)C1 | C23H18O5S
